US04042605
20 parts of tetraethylammonium ethosulfate and 48 parts of 1,4-diaminoanthraquinone are introduced into 400 parts by volume of dimethylformamide and the mixture is heated to 120° to 125° C. At this temperature there is introduced in the course of thirty minutes 50 parts of sodium cyanide and then 24 parts of sodium m-nitrobenzenesulfonate is added in about twenty minutes. 6 parts of powdered sulfur is added and the whole is stirred at 120° to 125° C. until all the 1,4-diaminoanthraquinone has been used up, this being the case after from 10 to 12 hours. After the whole has cooled to about 50° to 60° C. the reaction mixture is poured into 2000 parts of water, air is passed through the mixture to oxidize leuco compound still present and finally the excess sodium cyanide is destroyed by adding 35 parts of 30% hydrogen peroxide at from 60° to 70° C. while stirring. Suction filtration is carried out while the mixture is still warm and the filter cake is washed well with water and finally washed with methanol until the liquid running away is colorless. After drying, 47 parts of 1,4-diaminoanthraquinone-2,3-dinitrile is obtained which agrees chromatographically with the product obtained according to the process of German Pat. No. 1,108,704 and which has a melting point above 350° C. Recovery of the solvent may be carried out as described in Example 2 (b). An equally good product is obtained when an equivalent amount of trimethylbenzylammonium chloride is used instead of tetraethylammonium ethosulfate.

reactant | tetraethylammonium | C(C)[N+](CC)(CC)CC
reactant | 1,4-diaminoanthraquinone | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | sodium m-nitrobenzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | sulfur | [S] | S
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,4-diaminoanthraquinone-2,3-dinitrile | NC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)C#N)C#N | C16H8N4O2
